* Via spice simulation
C1 vi 0 43.220fF
C2 vo 0 43.220fF
* Series connection of L1 and R1: vi-n1 is connected to the inductor, and n1-vo is connected to the damping resistor.
L1 vi n1 50.986pH
* Series damping: suppress LC resonance and stabilize vo at high and low levels.
R1 n1 vo 50Ω   

* Vin vi 0 pulse(0 1 0 5p 5p 150p 312.5p)
Vin vi 0 pulse(0V 1V 0 0 0 312.5ps)


* Transient analysis - The corresponding period for 3.2GHz is 312.5 ps.
.tran 0.5p 500p 0 0.5p
.measure tran t_rise_vo TRIG v(vi) VAL=1.0 RISE=1 TARG v(vo) VAL=1.0 FALL=1


.control
run
set color0 = white
set color1 = black
set xbrushwidth=4
plot v(vi) v(vo)
.endc

.end0